US08859555B2
To a solution of (trans)-2-(4-(4-bromobenzyloxy)phenyl)cyclopropanamine (4.2 g, 13.24 mmol) in DCM (42 mL) 4° A molecular sieves was added followed by chloroacetaldehyde (1.0 g, 13.24 mmol), stirred at RT for 1 h. After completion of reaction, monitored by TLC, the reaction mixture was cooled to −10° C. and Na(CN)BH3 (0.99 mg, 15.88 mmol) was added and stirred at RT for 2 h. After completion, the reaction mixture was quenched with NH4Cl (5%) and filtered through a pad of celite. The filtrate was extracted with DCM (2×150 mL) combined extracts were washed with water (50 mL), dried over anhydrous Na2SO4, filtered and evaporated. The residue was purified by flash column chromatography by using EtOAc: Pet ether to get (trans)-2-(4-(4-bromobenzyloxy)phenyl)-N-(2-chloroethyl)cyclopropanamine (4 g, 80%)

reactant | (trans)-2-(4-(4-bromobenzyloxy)phenyl)cyclopropanamine | 13.24 mmol, 4.2 g | BrC1=CC=C(COC2=CC=C(C=C2)[C@H]2[C@@H](C2)N)C=C1 | C16H16BrNO
reactant | chloroacetaldehyde | 13.24 mmol, 1.0 g | ClCC=O | C2H3ClO
solvent | DCM | 42 mL | C(Cl)Cl | CH2Cl2
product | (trans)-2-(4-(4-bromobenzyloxy)phenyl)-N-(2-chloroethyl)cyclopropanamine | 4 g, 80% | BrC1=CC=C(COC2=CC=C(C=C2)[C@H]2[C@@H](C2)NCCCl)C=C1 | C18H19BrClNO
